US07196114B2
d) 1-(2-Chloro-4,5-difluorobenzoyl)-3-[2-(5-oxo-4,5-dihydro[1,3,4]oxadiazol-2-yl)thiophen-3-yl]urea
5-(3-Aminothiophen-2-yl)-3H-[1,3,4]oxadiazol-2-one hydrochloride (30 mg) is initially charged in 3 ml of acetonitrile. The equimolar solution of 2-chloro-4,5-difluorobenzoyl isocyanate in acetonitrile is added. After 3 hours, the solid is filtered off with suction and dried under reduced pressure.

reactant | 5-(3-Aminothiophen-2-yl)-3H-[1,3,4]oxadiazol-2-one hydrochloride | 30 mg | Cl.NC1=C(SC=C1)C1=NNC(O1)=O
reactant | 2-chloro-4,5-difluorobenzoyl isocyanate | ClC1=C(C(=O)N=C=O)C=C(C(=C1)F)F | C8H2ClF2NO2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1-(2-Chloro-4,5-difluorobenzoyl)-3-[2-(5-oxo-4,5-dihydro[1,3,4]oxadiazol-2-yl)thiophen-3-yl]urea | ClC1=C(C(=O)NC(=O)NC2=C(SC=C2)C=2OC(NN2)=O)C=C(C(=C1)F)F | C14H7ClF2N4O4S
